US06888004B2
4-[2-ethyl-7-(2,4,6-trimethyl-phenyl)-6,7-dihydro-5H-imidazo[1,2-a]Imidazol-3-yl]-Heptan-4-ol, scheme 11:
To a 0° C. solution of 2-ethyl-7-(2,4,6-trimethyl-phenyl)-6,7-dihydro-5H-imidazo[1,2-a]imidazole-3-carboxylic acid ethyl ester (1 mL of a 0.14M solution in toluene) in tetrahydrofuran (1 mL) was added n-propylmagnesium chloride (0.84 mL of 1.0M in tetrahydrofuran). The resulting solution was removed from the ice bath and allowed to stir for 15 min. It was then heated at reflux for 14 h. Upon cooling to room temperature, the reaction solution was quenched with saturated aqueous ammonium chloride, and the phases were separated. The aqueous phase was extracted twice with ether, and the combined organic portions were washed with brine, dried over anhydrous Na2SO4, and concentrated under reduced pressure to give a yellow semi-solid (0.0448 g, 86%). LC/MS: tR=1.58 min., (MH+)=370.31.

reactant | 2-ethyl-7-(2,4,6-trimethyl-phenyl)-6,7-dihydro-5H-imidazo[1,2-a]imidazole-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=C(N=C2N1CCN2C2=C(C=C(C=C2C)C)C)CC | C19H25N3O2
reactant | n-propylmagnesium chloride | 1.0M, 0.84 mL | C(CC)[Mg]Cl
reactant | toluene | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
product | 4-[2-ethyl-7-(2,4,6-trimethyl-phenyl)-6,7-dihydro-5H-imidazo[1,2-a]Imidazol-3-yl]-Heptan-4-ol | 0.0448 g, 86% | C(C)C=1N=C2N(C1C(CCC)(CCC)O)CCN2C2=C(C=C(C=C2C)C)C | C23H35N3O
